US04148625
In ethanol, p-hydroxyacetoanilide is reacted with 2,4-dichlorobenzyl chloride in the presence of sodium ethoxide and the resultant 4-(2,4-dichlorobenzyloxy)-acetoanilide is treated with potassium hydroxide in ethanol, whereby 4-(2,4-dichlorobenzyloxy)-aniline is obtained as crystals melting at 70°-71° C. In a similar manner, the following compounds can be prepared from the corresponding substituted benzyl halide derivatives.

reactant | p-hydroxyacetoanilide | OC1=CC=C(NC(C)=O)C=C1 | C8H9NO2
reactant | 2,4-dichlorobenzyl chloride | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 4-(2,4-dichlorobenzyloxy)-aniline | ClC1=C(COC2=CC=C(N)C=C2)C=CC(=C1)Cl | C13H11Cl2NO
